US07906546B2
To a stirred solution of 50 mg (0.1 mmol) of (RS,SR)-C-{5-[benzenesulfonyl-(7-chloro-1,2,3,4-tetrahydro-cyclopenta[b]indol-2-yl)-fluoro-methyl]-[1,2,4]oxadiazol-3-yl}-methylamine in 5 mL MeOH at 0° C. was added 19 mg (0.1 mmol, 1 eq) of methyl 4-formylbenzoate, 7 mg (0.1 mmol, leg) sodium cyanoborohydride and one drop of acetic acid. The reaction mixture was stirred at 0° C. for 20 minutes and then the temperature was raised to RT and the reaction quenched with saturated aqueous solution of NaHCO3. The reaction mixture was poured on water and extracted with EtOAc. The organic phase were dried over Na2SO4, filtered and evaporated. Column chromatography on silica gel (heptane/EtOAc 1:1) yielded 30 mg (45%) of (RS,SR)-4-[({5-[benzenesulfonyl-(7-chloro-1,2,3,4-tetrahydro-cyclopenta[b]indol-2-yl)-fluoro-methyl]-[1,2,4]oxadiazol-3-ylmethyl}-amino)-methyl]-benzoic acid methyl ester as a light yellow powder, MS: 609 (MH+).

reactant | (RS,SR)-C-{5-[benzenesulfonyl-(7-chloro-1,2,3,4-tetrahydro-cyclopenta[b]indol-2-yl)-fluoro-methyl]-[1,2,4]oxadiazol-3-yl}-methylamine | 0.1 mmol, 50 mg | C1(=CC=CC=C1)S(=O)(=O)C(C1=NC(=NO1)CN)(F)C1CC2=C(NC=3C=CC(=CC23)Cl)C1 | C21H18ClFN4O3S
reactant | methyl 4-formylbenzoate | 0.1 mmol, 19 mg, 1 eq | C(=O)C1=CC=C(C(=O)OC)C=C1 | C9H8O3
reactant | sodium cyanoborohydride | 0.1 mmol, 7 mg | C(#N)[BH3-].[Na+]
solvent | MeOH | 5 mL | CO | CH4O
catalyst | acetic acid | one drop | C(C)(=O)O | C2H4O2
product | (RS,SR)-4-[({5-[benzenesulfonyl-(7-chloro-1,2,3,4-tetrahydro-cyclopenta[b]indol-2-yl)-fluoro-methyl]-[1,2,4]oxadiazol-3-ylmethyl}-amino)-methyl]-benzoic acid methyl ester | 30 mg, 45% | COC(C1=CC=C(C=C1)CNCC1=NOC(=N1)C(F)(C1CC2=C(NC=3C=CC(=CC23)Cl)C1)S(=O)(=O)C1=CC=CC=C1)=O | C30H26ClFN4O5S
